US08124793B2
To a suspension of 3 g NaH in 50 mL of glyme was added 1.0 g of ethylene methanedisulfonate. To this solution was added 1.1 g of 2-naphthoyl chloride and the H2 evolved was measured. The theoretical amount of H2 evolved in about 45 min. The solvent was then removed from the solution on a rotary evaporator. The residue was taken up in 50 mL of water and washed with CH2Cl2. The water solution was acidified and an oil separated which was then extracted with CH2Cl2 which was dried over MgSO4, and evaporated to leave 1.65 g (93%) of crude product. Subsequent crystallization from CH2Cl2-cyclohexane gave 1.49 g (84%) ethylene 2-naphthoylmethanedisulfonate, m.p. 150-158° C. (95-4).

reactant | NaH | 3 g | [H-].[Na+]
reactant | ethylene methanedisulfonate | 1.0 g | C1S(=O)(=O)OCCOS1(=O)=O | C3H6O6S2
reactant | 2-naphthoyl chloride | 1.1 g | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
solvent | glyme | 50 mL | C(OC)COC | C4H10O2
product | ethylene 2-naphthoylmethanedisulfonate | 1.49 g, 84% | C1=C(C=CC2=CC=CC=C12)C(=O)C1S(=O)(=O)OCCOS1(=O)=O | C14H12O7S2
